US07576064B2
1-Isopropyl-4-(4-methoxybenzyl)-5-phenoxy-3-(β-D-glucopyranosyloxy)-1H-pyrazole
To a suspension of 1-isopropyl-4-(4-methoxybenzyl)-5-phenoxy-1,2-dihydro-3H-pyrazol-3-one (10 mg), acetobromo-α-D-glucose (40 mg) and benzyl(n-tributyl)ammonium chloride (30 mg) in dichloromethane (3 mL) was added sodium hydroxide aqueous solution (2 mol/L, 0.1 mL) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: tetrahydrofuran). The obtained semi-purified 1-isopropyl-4-(4-methoxybenzyl)-5-phenoxy-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy-1H-pyrazole was dissolved in methanol (5 mL) and sodium methoxide (28% methanol solution, 0.2 mL) was added to the solution. The mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and to the residue was added 10% citric acid aqueous solution. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELLPAC C18 UG80, 5 μm, 20×50 mm, flowrate 30 mL/min linear gradient, water/methanol=70/30-10/90) to give 10 mg of the title compound.

reactant | 1-isopropyl-4-(4-methoxybenzyl)-5-phenoxy-1,2-dihydro-3H-pyrazol-3-one | 10 mg | C(C)(C)N1NC(C(=C1OC1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O | C20H22N2O3
reactant | acetobromo-α-D-glucose | 40 mg | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 2 mol/L, 0.1 mL | [OH-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-Isopropyl-4-(4-methoxybenzyl)-5-phenoxy-3-(β-D-glucopyranosyloxy)-1H-pyrazole | 10 mg | C(C)(C)N1N=C(C(=C1OC1=CC=CC=C1)CC1=CC=C(C=C1)OC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C26H32N2O8
